US04663453
9-Bromo-6-dimethylamino-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A mixture of 10.8 g (0.030 mole) of N-[5-bromo-2-(2,3-dihydro-1H-indol-1-yl)phenyl]-N',N'-dimethylurea and 110 ml of phosphorus oxychloride, under nitrogen, was heated under reflux for 6 hours, with stirring, and then cooled to room temperature. The excess phosphorus oxychloride was removed under vacuum with gentle warming. The residue was chilled in an ice-bath (with exclusion of moisture) and treated first with 250 ml of ice-cold 2N sodium hydroxide solution, and then with 500 ml of dichloromethane. The mixture was stirred and triturated until all the material passed into solution. The organic phase was separated, washed with 2N sodium hydroxide solution, twice with water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to an oil. The oil was dissolved in 50 ml of ethyl acetate and the solution was concentrated under a stream of nitrogen. At a volume of about 30 ml, the mixture was filtered. Concentration of the filtrate was continued to a volume of about 20 ml, during which crystallization resulted. The solid was dissolved by heating, the hot solution was filtered and allowed to crystallize to afford 4.9 g (48%) of product, mp 124°-127° C.

reactant | N-[5-bromo-2-(2,3-dihydro-1H-indol-1-yl)phenyl]-N',N'-dimethylurea | 0.030 mole, 10.8 g | BrC=1C=CC(=C(C1)NC(=O)N(C)C)N1CCC2=CC=CC=C12 | C17H18BrN3O
solvent | phosphorus oxychloride | 110 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 9-Bromo-6-dimethylamino-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 4.9 g, 48% | BrC1=CC2=C(N3C4=C(C(=N2)N(C)C)C=CC=C4CC3)C=C1 | C17H16BrN3
